*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-100
* Inductance = 9.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-100_freq port1 port2 PARAMS: Cpar=0.065pF Ind=9.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000196
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15780.2963
.ends 1008HS-100_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-120
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-120_freq port1 port2 PARAMS: Cpar=0.1pF Ind=12nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=0.1
+ C= {Cpar}
+ K1=0.000024
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13913.2827
.ends 1008HS-120_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-150
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-150_freq port1 port2 PARAMS: Cpar=0.153pF Ind=15nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000312
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11146.0047
.ends 1008HS-150_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-180
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-180_freq port1 port2 PARAMS: Cpar=0.083pF Ind=18nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000316
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24025.4186
.ends 1008HS-180_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-220
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-220_freq port1 port2 PARAMS: Cpar=0.124pF Ind=22nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000369
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17680.1562
.ends 1008HS-220_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-270
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-270_freq port1 port2 PARAMS: Cpar=0.185pF Ind=27nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000441
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14463.9785
.ends 1008HS-270_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-330
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-330_freq port1 port2 PARAMS: Cpar=0.117pF Ind=33nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000518
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24273.4734
.ends 1008HS-330_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-390
* Inductance = 39nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-390_freq port1 port2 PARAMS: Cpar=0.149pF Ind=39nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.2
+ C= {Cpar}
+ K1=0.000055
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=22738.5225
.ends 1008HS-390_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-470
* Inductance = 47nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-470_freq port1 port2 PARAMS: Cpar=0.118pF Ind=47nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.2
+ C= {Cpar}
+ K1=0.000064
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=33310.7836
.ends 1008HS-470_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-560
* Inductance = 56nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-560_freq port1 port2 PARAMS: Cpar=0.16pF Ind=56nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=0.2
+ C= {Cpar}
+ K1=0.000074
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=34883.3073
.ends 1008HS-560_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-680
* Inductance = 68nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-680_freq port1 port2 PARAMS: Cpar=0.137pF Ind=68nH
X1 port1 port2 Model2A PARAMS:
+ R1=6
+ R2=0.2
+ C= {Cpar}
+ K1=0.000092
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=50984.4324
.ends 1008HS-680_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-820
* Inductance = 81nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-820_freq port1 port2 PARAMS: Cpar=0.179pF Ind=81nH
X1 port1 port2 Model2A PARAMS:
+ R1=12
+ R2=0.2
+ C= {Cpar}
+ K1=0.000115
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27971.0617
.ends 1008HS-820_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-101
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-101_freq port1 port2 PARAMS: Cpar=0.135pF Ind=100nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.6
+ C= {Cpar}
+ K1=0.000125
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=42030.6706
.ends 1008HS-101_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-121
* Inductance = 120nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-121_freq port1 port2 PARAMS: Cpar=0.136pF Ind=120nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.6
+ C= {Cpar}
+ K1=0.000151
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=48143.729
.ends 1008HS-121_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-151
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-151_freq port1 port2 PARAMS: Cpar=0.136pF Ind=150nH
X1 port1 port2 Model2A PARAMS:
+ R1=14
+ R2=0.7
+ C= {Cpar}
+ K1=0.00011
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=62418.6371
.ends 1008HS-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-181
* Inductance = 180nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-181_freq port1 port2 PARAMS: Cpar=0.13pF Ind=180nH
X1 port1 port2 Model2A PARAMS:
+ R1=18
+ R2=0.8
+ C= {Cpar}
+ K1=0.00014
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=61503.7377
.ends 1008HS-181_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-221
* Inductance = 224nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-221_freq port1 port2 PARAMS: Cpar=0.147pF Ind=224nH
X1 port1 port2 Model2A PARAMS:
+ R1=18
+ R2=0.8
+ C= {Cpar}
+ K1=0.00019
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=64502.8985
.ends 1008HS-221_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-271
* Inductance = 265nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-271_freq port1 port2 PARAMS: Cpar=0.144pF Ind=265nH
X1 port1 port2 Model2A PARAMS:
+ R1=19
+ R2=0.9
+ C= {Cpar}
+ K1=0.000232
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=71832.6319
.ends 1008HS-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-331
* Inductance = 330nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-331_freq port1 port2 PARAMS: Cpar=0.132pF Ind=330nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=1.1
+ C= {Cpar}
+ K1=0.000284
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=89800.0557
.ends 1008HS-331_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-391
* Inductance = 380nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-391_freq port1 port2 PARAMS: Cpar=0.138pF Ind=380nH
X1 port1 port2 Model2A PARAMS:
+ R1=27
+ R2=1.1
+ C= {Cpar}
+ K1=0.000349
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=76077.8464
.ends 1008HS-391_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-471
* Inductance = 465nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-471_freq port1 port2 PARAMS: Cpar=0.156pF Ind=465nH
X1 port1 port2 Model2A PARAMS:
+ R1=31
+ R2=1.2
+ C= {Cpar}
+ K1=0.000427
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=72048.3217
.ends 1008HS-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-561
* Inductance = 550nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-561_freq port1 port2 PARAMS: Cpar=0.172pF Ind=550nH
X1 port1 port2 Model2A PARAMS:
+ R1=36
+ R2=1.3
+ C= {Cpar}
+ K1=0.000518
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=66936.6388
.ends 1008HS-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-621
* Inductance = 615nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-621_freq port1 port2 PARAMS: Cpar=0.143pF Ind=615nH
X1 port1 port2 Model2A PARAMS:
+ R1=37
+ R2=1.4
+ C= {Cpar}
+ K1=0.000574
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=85522.0316
.ends 1008HS-621_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-681
* Inductance = 665nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-681_freq port1 port2 PARAMS: Cpar=0.139pF Ind=665nH
X1 port1 port2 Model2A PARAMS:
+ R1=37
+ R2=1.5
+ C= {Cpar}
+ K1=0.00061
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=93903.9694
.ends 1008HS-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-751
* Inductance = 740nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-751_freq port1 port2 PARAMS: Cpar=0.138pF Ind=740nH
X1 port1 port2 Model2A PARAMS:
+ R1=44
+ R2=1.5
+ C= {Cpar}
+ K1=0.00069
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=90296.6272
.ends 1008HS-751_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-821
* Inductance = 810nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-821_freq port1 port2 PARAMS: Cpar=0.135pF Ind=810nH
X1 port1 port2 Model2A PARAMS:
+ R1=41
+ R2=1.6
+ C= {Cpar}
+ K1=0.00081
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=102111.271
.ends 1008HS-821_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-911
* Inductance = 895nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-911_freq port1 port2 PARAMS: Cpar=0.155pF Ind=895nH
X1 port1 port2 Model2A PARAMS:
+ R1=53
+ R2=1.7
+ C= {Cpar}
+ K1=0.00078
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=83558.0409
.ends 1008HS-911_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HS-102
* Inductance = 975nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HS-102_freq port1 port2 PARAMS: Cpar=0.209pF Ind=975nH
X1 port1 port2 Model2A PARAMS:
+ R1=90
+ R2=1.8
+ C= {Cpar}
+ K1=0.00082
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=44303.2336
.ends 1008HS-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
